US05480873
Ethyl 4-hydroxv-6,10-dimethoxy-9-fluoroanthracene-2-carboxylate
4-Acetoxy-2-carboxyethyl-6,10-dimethoxy-9-fluoroanthracene (5 g) was dissolved in ethanol at room temperature and a solution of sodium ethoxide in ethanol was added. The reaction mixture was stirred for 30 minutes, then acidified with 2N HCl (aq). The solvent was removed under reduced pressure, the residue was taken up in the ethyl acetate and washed with water. The solution was dried (MgSO4) and filtered, hexane was added and a yellow solid precipitated on cooling, ethyl 4-hydroxy-6,10-dimethoxy-9-fluoroanthracene-2-carboxylate).

reactant | 4-Acetoxy-2-carboxyethyl-6,10-dimethoxy-9-fluoroanthracene | 5 g | C(C)(=O)OC1=CC=C(C2=C(C3=CC=C(C=C3C(=C12)OC)OC)F)CCC(=O)O | C21H19FO6
reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | HCl | 2N | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | Ethyl 4-hydroxv-6,10-dimethoxy-9-fluoroanthracene-2-carboxylate | OC1=CC(=CC2=C(C3=CC=C(C=C3C(=C12)OC)OC)F)C(=O)OCC | C19H17FO5
